US08486967B2
d) 4-Methyl-1-(6-methylpyrimidin-4-yl)piperidin-4-amine
To a mixture of 4-methylpiperidin-4-amine bis(4-methylbenzenesulfonate) (3.91 g, 8.53 mmol) and 4-chloro-6-methylpyrimidine (1.10 g, 8.53 mmol) in NMP (35 mL) was added K3PO4 (3.12 g, 17.9 mmol) and the reaction mixture was stirred at 80° C. for 18 hours. After cooling to room temperature, 0.5 M aqueous K3PO4 was added and the mixture extracted twice with dichloromethane. The combined organic layers were extracted twice with HCl (1 N). The combined aqueous layers were made alkaline with NaOH (6 N), extracted twice with dichloromethane and the organic layers washed with brine, dried over sodium sulfate, filtered and evaporated. Purification by chromatography (silica gel, 70 g, 0 to 100% ethyl acetate in heptane; then 0 to 50% methanol in ethyl acetate, containing 10% triethylamine) afforded the title compound (1.09 g, 62%) as a light yellow semisolid.

reactant | 4-methylpiperidin-4-amine bis(4-methylbenzenesulfonate) | 8.53 mmol, 3.91 g | CC1=CC=C(C=C1)S(=O)(=O)O.CC1=CC=C(C=C1)S(=O)(=O)O.CC1(CCNCC1)N
reactant | 4-chloro-6-methylpyrimidine | 8.53 mmol, 1.10 g | ClC1=NC=NC(=C1)C | C5H5ClN2
reactant | K3PO4 | 17.9 mmol, 3.12 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | K3PO4 | 0.5 M | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | NMP | 35 mL | CN1CCCC1=O | C5H9NO
product | 4-Methyl-1-(6-methylpyrimidin-4-yl)piperidin-4-amine | 1.09 g, 62% | CC1(CCN(CC1)C1=NC=NC(=C1)C)N | C11H18N4
